US08563617B2
34.3 7-[(tert-Butoxycarbonyl)amino]-8-(3,4-dichlorobenzyl)-5,6,7,8-tetrahydronaphthalen-2-yl trifluoromethanesulfonate
tert-Butyl [1-(3,4-dichlorobenzyl)-7-hydroxy-1,2,3,4-tetrahydronaphthalen-2-yl]carbamate (4.06 g, 9.66 mmol) and 1,1,1-trifluoro-N-phenyl-N-(trifluoromethylsulfonyl)methanesulfonamide (4.14 g, 11.59 mmol) were dissolved in dichloromethane (190 mL). The light brown solution was cooled to 0° C. and triethylamine (2.69 mL, 19.32 mmol) in dichloromethane (10 mL) was added dropwise. The reaction mixture was allowed to warm to room temperature and stirring was continued over night. The solvent was evaporated in vacuo and the crude product was purified by flash chromatography (dichloromethane, silica gel). Yield: 3.2 g (5.77 mmol, 60%).

reactant | tert-Butyl [1-(3,4-dichlorobenzyl)-7-hydroxy-1,2,3,4-tetrahydronaphthalen-2-yl]carbamate | 9.66 mmol, 4.06 g | ClC=1C=C(CC2C(CCC3=CC=C(C=C23)O)NC(OC(C)(C)C)=O)C=CC1Cl | C22H25Cl2NO3
reactant | 1,1,1-trifluoro-N-phenyl-N-(trifluoromethylsulfonyl)methanesulfonamide | 11.59 mmol, 4.14 g | FC(S(=O)(=O)N(S(=O)(=O)C(F)(F)F)C1=CC=CC=C1)(F)F | C8H5F6NO4S2
reactant | triethylamine | 19.32 mmol, 2.69 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 190 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 7-[(tert-Butoxycarbonyl)amino]-8-(3,4-dichlorobenzyl)-5,6,7,8-tetrahydronaphthalen-2-yl trifluoromethanesulfonate | FC(S(=O)(=O)OC1=CC=2C(C(CCC2C=C1)NC(=O)OC(C)(C)C)CC1=CC(=C(C=C1)Cl)Cl)(F)F | C23H24Cl2F3NO5S
